US07807673B2
The title compound was prepared from 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-{3-[(dimethylamino)methyl]phenyl}-2-pyrimidinamine and 2-thiopheneacetyl chloride using acylation conditions described in Example 1, Step F to generate the product in 88% yield. 1H NMR (400 MHz, DMSO-d6): δ 2.11 (s, 6H), 3.26 (s, 2H), 3.86 (s, 2H), 6.46 (d, 1H, J=5.3 Hz), 6.85 (d, 1H, J=7.5 Hz), 6.96 (m, 2H), 7.10-7.19 (m, 2H), 7.26 (d, 1H, J=7.9 Hz), 7.36-7.48 (m, 3H), 7.62 (d, 1H, J=8.2 Hz), 7.69 (s, 1H), 7.73 (d, 1H, J=9.1 Hz), 7.89 (s, 1H), 8.23 (d, 1H, J=5.3 Hz), 8.51 (d, 1H, J=8.8 Hz), 8.82 (d, 1H, J=6.9 Hz), 9.52 (s, 1H), 10.35 (s, 1H); ES-LC/MS m/z=560 [M+H]+.

reactant | 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-{3-[(dimethylamino)methyl]phenyl}-2-pyrimidinamine | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)CN(C)C | C26H25N7
reactant | 2-thiopheneacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | N-(3-{3-[2-({3-[(Dimethylamino)methyl]phenyl}amino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)-2-(2-thienyl)acetamide | 88% yield | CN(C)CC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C32H29N7OS
